US05292760
A stirred suspension of 11.28 g of N-[2-[2-methylamino-2-(2-thienyl)ethyl]phenyl]-2,2-dimethylpropanamide in 100 ml of 6N hydrochloric acid was refluxed under nitrogen for 8 hours. The mixture was cooled, decanted over crushed ice and water (200 ml), basified by the addition of 50% sodium hydroxide solution, and extracted with dichloromethane (3×150 ml). The combined extract was dried over anhydrous sodium sulfate, filtered, and concentrated to an oil. The oil was purified by means of HPLC on a Water's Model 500A High Pressure Liquid Chromatograph (silica gel) utilizing methanol as the eluent. Concentration of the appropriate fractions yielded 5.96 g of 2-amino-N-methyl-α-(2-thienyl)benzeneethanamine. A sample of the product (2 g) in methanol (5 ml) was treated with ethereal hydrogen chloride and a solid was precipitated by further dilution with anhydrous ether. Recrystallization from absolute ethanol gave 2.12 g of 2-amino-N-methyl-α-(2-thienyl)benzeneethanamine dihydrochloride hemihydrate, mp 210°-215° C. (dec.).

reactant | N-[2-[2-methylamino-2-(2-thienyl)ethyl]phenyl]-2,2-dimethylpropanamide | 11.28 g | CNC(CC1=C(C=CC=C1)NC(C(C)(C)C)=O)C=1SC=CC1 | C18H24N2OS
solvent | hydrochloric acid | 6N, 100 ml | Cl | ClH
product | 2-amino-N-methyl-α-(2-thienyl)benzeneethanamine | 5.96 g | NC1=C(C=CC=C1)CC(NC)C=1SC=CC1 | C13H16N2S
